US04925879
A solution of 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-dimethylaminoacetonitrile (28.3 g prepared as described in Example A(c)) in dry tetrahydrofuran (150 ml) was added with stirring to a solution of lithium diisopropylamide [prepared by the addition of a 1.6M solution of butyllithium in hexane (100 ml) to a solution of diisopropylamine (22.4 ml) in ether (200 ml) followed by removal of the solvents at 80° C. and disolution of the residue in tetrahydrofuran (100 ml)] at -20° C. The temperature of the solution was maintained at -12° C. for 30 minutes. The mixture was then cooled to -40° C. and propionaldehyde (20 ml) was added. The temperature was allowed to rise to -10° C. and an excess of aqueous ammonium chloride solution was added at the same temperature. The aqueous layer was separated and extracted with ether and the extract combined with the organic phase of the reaction mixture. The resulting organic phase was dried and the solvents removed. The residue was distilled (eliminating hydrogen cyanide) (154° C./6 mm Hg to 180° C./1.2 mm Hg) to give an oil which was dissolved in petroleum ether (40°-60° C.). A solid which separated from the solution was collected by filtration and discarded and the filtrate evaporated. The residue was dissolved in methanol, oxalic acid (20 g) was added and the mixture heated at 90°-95° C. for 40 minutes. The solution was poured into water (ca. 1.5 liters) and the resulting mixture was washed with ether, basified and extracted with ether. The extract yielded an oil which was distilled in a Buchi Kugelrohr apparatus (175° C./0.9 mm Hg) to give 1-[1-(3,4-dichlorophenyl)cyclobutyl]-1-dimethylaminobutan-2-one.

reactant | 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-dimethylaminoacetonitrile | 28.3 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C(C#N)N(C)C | C14H16Cl2N2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 22.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-[1-(3,4-dichlorophenyl)cyclobutyl]-1-dimethylaminobutan-2-one | ClC=1C=C(C=CC1Cl)C1(CCC1)C(C(CC)=O)N(C)C | C16H21Cl2NO
